US07745641B2
In a similar manner to Step 2 of Example 6, 4-(2-cyanobenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.140 g, 0.238 mmol) was dissolved in acetonitrile (6.0 mL), and the solution was treated with pyrrolidine (0.398 mL, 4.77 mmol), acetic acid (0.273 mL, 4.77 mmol) and sodium triacetoxyborohydride (0.151 g, 0.715 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=85/15, 80/20) to obtain 4-(2-cyanobenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone (0.0773 g, ESI-MS m/z: 643 [M+H]+; 1H-NMR (CD3OD)8(ppm): 1.18 (s, 9H), 1.83-1.92 (m, 4H), 2.88-2.96 (m, 4H), 3.25 (s, 3H), 4.04 (s, 2H), 4.49 (s, 2H), 6.55 (s, 1H), 7.00 (s, 1H), 7.28 (dd, J=1.6, 8.7 Hz, 1H), 7.52 (d, J=1.6 Hz, 1H), 7.77-7.93 (m, 3H), 8.08 (dd, J=1.6, 7.3 Hz, 1H), 8.17 (d, J=8.7 Hz, 1H).

reactant | 4-(2-cyanobenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.238 mmol, 0.140 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C30H25N3O8S
reactant | pyrrolidine | 4.77 mmol, 0.398 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 4.77 mmol, 0.273 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.715 mmol, 0.151 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 6.0 mL | C(C)#N | C2H3N
product | 4-(2-cyanobenzenesulfonyloxy)-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(pyrrolidin-1-ylmethyl)indol-2-yl]isoindolinone | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN1CCCC1)C(=O)OC(C)(C)C)=O | C34H34N4O7S
